US07432284B2
A solution of 2-allyl-2-butyl-5-methoxy-1-indanone (253 mg, 0.98 mmol) in DMF (1.2 mL) was treated with benzoquinone (108 mg, 0.98 mmol), water (0.026 mL, 1.44 mmol), and palladium(II) chloride (36 mg, 0.2 mmol). The mixture was stirred and heated in an oil bath at 65° C. Additional water was added in 0.026 mL portions after 15, 45, and 130 minutes. After 230 minutes, the mixture was treated with more benzoquinone (10.9 mg, 0.1 mmol) and, after 285 minutes, with more water (0.026 mL). After heating at 65° C. for a total of 345 minutes, the mixture was diluted with water (50 ml) and extracted with Et2O (40 mL) followed by CH2Cl2 (2×50 mL). The organic extracts were washed with brine, dried over MgSO4, filtered, and concentrated under vacuum. The residue was purified by Biotage™ (Charlottesville, Va.) flash chromatography on a 12M (12 mm×15 cm) silica gel column, eluting with 10:1 hexane-EtOAc. The product-containing fractions were evaporated under vacuum to afford 2-butyl-5-methoxy-(2-oxopropyl)-1-indanone as an oil.

reactant | 2-allyl-2-butyl-5-methoxy-1-indanone | 0.98 mmol, 253 mg | C(C=C)C1(C(C2=CC=C(C=C2C1)OC)=O)CCCC | C17H22O2
reactant | benzoquinone | 0.98 mmol, 108 mg | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | benzoquinone | 0.1 mmol, 10.9 mg | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
catalyst | palladium(II) chloride | 0.2 mmol, 36 mg | [Pd](Cl)Cl
solvent | water | 0.026 mL | O | H2O
solvent | water | 1.44 mmol, 0.026 mL | O | H2O
product | 2-butyl-5-methoxy-(2-oxopropyl)-1-indanone | C(CCC)C1(C(C2=CC=C(C=C2C1)OC)=O)CC(C)=O | C17H22O3
